US06322775B1
1-(4′-chlorophenyl)-4,5-pyrazolinedione;
1-(4′-chlorophenyl)-3-methyl-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-phenyl-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-(4′-methylphenyl)-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-(3′-methoxyphenyl)-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-(4′-methoxyphenyl)-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-(3′-nitrophenyl)-4,5-pyrazolinedione; 1-(4′-chlorophenyl)-3-methoxy-4,5-pyrazolinedione;

reactant | 1-(4′-chlorophenyl)-3-methyl-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C | C10H9ClN2O2
reactant | 1-(4′-chlorophenyl)-3-phenyl-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC=CC=C1 | C15H11ClN2O2
reactant | 1-(4′-chlorophenyl)-3-(4′-methylphenyl)-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)C | C16H13ClN2O2
reactant | 1-(4′-chlorophenyl)-3-(3′-methoxyphenyl)-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC(=CC=C1)OC | C16H13ClN2O3
reactant | 1-(4′-chlorophenyl)-3-(4′-methoxyphenyl)-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC=C(C=C1)OC | C16H13ClN2O3
reactant | 1-(4′-chlorophenyl)-3-(3′-nitrophenyl)-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C15H10ClN3O4
reactant | 1-(4′-chlorophenyl)-3-methoxy-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NC(C(C1=O)=O)OC | C10H9ClN2O3
product | 1-(4′-chlorophenyl)-4,5-pyrazolinedione | ClC1=CC=C(C=C1)N1NCC(C1=O)=O | C9H7ClN2O2
